US06562978B1
Ethyl 1-(Methylsulfonyl)-4-piperidinecarboxylate
Ethyl isonipecotate (31.44 g, 200 mmol) and triethylamine (50.2 ml, 360 mmol) were dissolved in THF (500 ml), and under ice cooling, to the solution was added dropwise methanesulfonyl chloride (23.2 ml 300 mmol). The mixture was stirred at the same temperature for 1 hour. Under ice cooling, water (200 ml) was added, and the organic layer was distilled off under reduced pressure. The aqueous layer was extracted with ethyl acetate (200 ml, 100 ml×2). The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate (50 ml×2), 1N-hydrochloric acid (50 ml×3), saturated sodium chloride solution (50 ml), successively, dried over magnesium sulfate and concentrated under reduced pressure. To the concentrate was added diisopropyl ether (100 ml), and the resulting precipitates were collected by filtration. The precipitates were washed with diisopropyl ether (50 ml×3), and dried under reduced pressure to give the titled compound (43.20 g, 184 mmol, 1 Yield 92%) as white crystals.

reactant | Ethyl isonipecotate | 200 mmol, 31.44 g | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | triethylamine | 360 mmol, 50.2 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 300 mmol, 23.2 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 200 ml | O | H2O
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | Ethyl 1-(Methylsulfonyl)-4-piperidinecarboxylate | 184 mmol, 43.20 g, Yield 92% | CS(=O)(=O)N1CCC(CC1)C(=O)OCC | C9H17NO4S
